### PR TITLE
feat(ClassicalMechanics): SimplePendulum.periodFormula, the classical amplitude-dependent period

### PR DESCRIPTION
**Pull request by aadarwal**
Toward #883.

All of #1560–#1574 and #1572/#1573 are merged, so this PR is now a SINGLE commit directly on
master (`686d93d2`): `27aed819`, the module `SimplePendulum/PeriodFormula.lean` plus one `Physlib.lean`
import and two API-map rows.

Defines the classical formula of Landau & Lifshitz, *Mechanics*, 3rd ed., §11 Problem 1 —
`T = 4√(l/g) K(sin ½φ₀)` in the modulus convention — as `4 √(ℓ/g) · completeEllipticK (sin² (θ₀/2))`
in the parameter convention of #1573 (`m = k²`, Abramowitz & Stegun 17.3.1), and proves everything
that follows from the theory of `K` alone.

**This PR does not claim that `periodFormula θ₀` is the period of a solution.** That identification
is not formalized; a `TODO` after the definition lists the remaining milestones (uniqueness and
time-reversal symmetry are supplied by the existence/uniqueness PR), and the API map carries the
period theorem as a separate `done: false` requirement.

#### `be3ee022` — the period-formula module (`SimplePendulum/PeriodFormula.lean`, new)

| Declaration | What it says |
|---|---|
| `periodFormula` | `def`: `4 √(ℓ/g) K(sin² (θ₀/2))`, the classical formula for the period of libration at amplitude `θ₀` |
| `periodFormula_neg` | the formula is even in the amplitude |
| `periodFormula_zero` (`@[simp]`) | `periodFormula 0 = smallAnglePeriod`, from `K 0 = π/2` |
| `continuousOn_periodFormula`, `continuousAt_periodFormula_zero` | continuous on the libration range `(−π, π)`, and at zero amplitude |
| `periodFormula_tendsto_smallAnglePeriod` | `Tendsto periodFormula (𝓝 0) (𝓝 smallAnglePeriod)` — the small-angle limit |
| `periodFormula_mono`, `periodFormula_strictMono` | (strictly) increasing on `0 ≤ θ₁ ≤ θ₂ < π` |
| `monotoneOn_periodFormula`, `strictMonoOn_periodFormula` | the bundled forms on `Set.Ico 0 π` |
| `smallAnglePeriod_le_periodFormula`, `periodFormula_pos` | the lower bound and positivity, for `sin² (θ₀/2) < 1` |
| `periodFormula_le`, `periodFormula_le'` | `≤ 2π √(ℓ/g) / cos (θ₀/2) = smallAnglePeriod / cos (θ₀/2)` for `|θ₀| < π`, closing the sandwich |

Also: `Physlib.lean` import (sorted) and two `SimplePendulum/API-map.yaml` rows (the formula,
`done: true`; the period theorem, `done: false`).

**Reviewer reading order.** Module doc §i — especially the paragraph beginning "What this module
does not do…", which fixes the scope; `periodFormula` and the `TODO`; §A.1 (the domain lemma
`Real.sin_half_sq_lt_one`, from #1573's `Mathematics/Trigonometry/SinSq.lean`, and the junk-value remark) and §A.2 (continuity ⇒ the small-angle limit,
connecting to #1572's `smallAnglePeriod`); §B.1–B.2 (monotonicity and the bounds, all inherited
from #1573's theory of `K`); the API-map diff. Uniqueness and time-reversal symmetry — the TODO's
first two milestones — are formalized in the companion existence/uniqueness PR #1575, not here.

**Verification.** Warning-free builds; every declaration depends only on `propext`,
`Classical.choice`, `Quot.sound`; full `lake build` + the linter battery pass; imports minimal; the
formula checked against Landau–Lifshitz §11 Problem 1 by hand under `m = k² = sin²(θ₀/2)` (the
citation itself verified by the author against the printed source).

Developed with assistance from AI; all mathematics and proofs were reviewed and verified to compile.

### CODE REVIEW

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean [hunk 1]
```diff
@@ -0,0 +1,329 @@
...
+- The module `Physlib.ClassicalMechanics.Pendulum.SimplePendulum.SmallAngle`, for the
+  small-angle period `smallAnglePeriod = 2π √(ℓ/g)`.
+
+-/
+
+@[expose] public section
+
+namespace ClassicalMechanics
+
+namespace SimplePendulum
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean]:
```suggestion
namespace ClassicalMechanics.SimplePendulum
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean [hunk 2]
```diff
@@ -0,0 +1,329 @@
...
+  (4) the quadrature of the energy first integral on the descent, `θ̇² = (2g/ℓ)(cos θ - cos θ₀)`,
+  giving the quarter period as `√(ℓ/(2g)) ∫ θ in 0..θ₀, (cos θ - cos θ₀)^(-1/2)`;
+  (5) the substitution `sin (θ/2) = sin (θ₀/2) sin φ`, which transforms that integral into
+  `√(ℓ/g) completeEllipticK (sin² (θ₀/2))`;
+  (6) the assembly of (1)–(5) into the theorem that the motion released from rest at `θ₀` is
+  periodic with period `periodFormula θ₀`."
+
+/-- The period formula is even in the amplitude, `periodFormula (-θ₀) = periodFormula θ₀`: its
+  parameter `sin² (θ₀/2)` is even in `θ₀`. -/
+lemma periodFormula_neg (θ₀ : ℝ) : S.periodFormula (-θ₀) = S.periodFormula θ₀ := by
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean]: I don't think it would hurt to add @[simp] to this

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean [hunk 3]
```diff
@@ -0,0 +1,329 @@
...
+
+/-- The period formula is continuous on the libration range `(-π, π)`: `completeEllipticK` is
+  continuous at every parameter `m < 1`, and the parameter `sin² (θ₀/2)` is continuous in `θ₀`
+  and below `1` for `|θ₀| < π`. -/
+lemma continuousOn_periodFormula : ContinuousOn S.periodFormula (Set.Ioo (-Real.pi) Real.pi) := by
+  refine continuousOn_of_forall_continuousAt fun θ₀ hθ₀ => ?_
+  have hp : ContinuousAt (fun θ : ℝ => Real.sin (θ / 2) ^ 2) θ₀ := by fun_prop
+  have hK : ContinuousAt Real.completeEllipticK (Real.sin (θ₀ / 2) ^ 2) :=
+    Real.continuousAt_completeEllipticK (Real.sin_half_sq_lt_one (abs_lt.2 hθ₀))
+  exact continuousAt_const.mul (hK.comp (f := fun θ : ℝ => Real.sin (θ / 2) ^ 2) hp)
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean]:
```suggestion
  have hK : ContinuousAt Real.completeEllipticK (Real.sin (θ₀ / 2) ^ 2) :=
    Real.continuousAt_completeEllipticK (Real.sin_half_sq_lt_one (abs_lt.2 hθ₀))
  exact continuousAt_const.mul (hK.comp (f := fun θ : ℝ => Real.sin (θ / 2) ^ 2) (by fun_prop))
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean [hunk 4]
```diff
@@ -0,0 +1,329 @@
...
+proved — and the upper bound quantifies how it grows as the amplitude approaches the inverted
+position.
+
+What this module does not do is identify `periodFormula θ₀` with the period of a solution of
+the nonlinear equation of motion released from rest at `θ₀`. That identification is the
+theorem the formula is named for, and its formalization — the quarter period as a first hitting
+time, the quadrature of the energy first integral, the substitution, and their assembly, on top
+of the uniqueness of solutions and the time-reversal symmetry of the equation of motion
+(formalized in a companion module, `SimplePendulum/Solution.lean`, which is not part of this
+contribution) — is not yet carried out; the `TODO` after the definition lists the milestones.
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean]: Wouldn't refer to a contribution in the setting

Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/PeriodFormula.lean]: Done in `2f56d659` — both spots reworded to name the companion module `SimplePendulum/Solution.lean` directly, with no reference to contribution mechanics.

**Review by jstoobysmith — APPROVED** [review]
Approved. Will merge shortly
